US06342523B1
Synthesis of α-(4-Methoxymethoxy-3,5-di-tert-butylphenyl)-N-tert-butylnitrone
To a solution of 3,5-di-tert-butyl-4-methoxymethoxybenzaldehyde (11.42 g, 40 mmol) in benzene (200 mL) was added tert-butylhydroxylamine (4.0 g, 50 mol). The resulting Solution was refluxed for 72 h until no more aldehyde was detected by TLC (Rf=0.56 for product and 0.78 for starting material in 1:1 hexanes/EtOAc). The solvent was removed in vacuo and the residue was suspended in hexane/EtOAc. The suspension was filtered, washed with hexanes and dried to afford the title compound (69% yield) as a white solid, m.p. 202.2-205.9° C.

reactant | 3,5-di-tert-butyl-4-methoxymethoxybenzaldehyde | 40 mmol, 11.42 g | C(C)(C)(C)C=1C=C(C=O)C=C(C1OCOC)C(C)(C)C | C17H26O3
reactant | tert-butylhydroxylamine | 50 mol, 4.0 g | C(C)(C)(C)NO | C4H11NO
solvent | benzene | 200 mL | C1=CC=CC=C1 | C6H6
product | α-(4-Methoxymethoxy-3,5-di-tert-butylphenyl)-N-tert-butylnitrone | 69% yield | COCOC1=C(C=C(C=C1C(C)(C)C)C=[N+]([O-])C(C)(C)C)C(C)(C)C | C21H35NO3
